US08110681B2
A mixture of tert-butyl 2-(4-nitrophenyl)propanoate (14.4 g, 57.3 mmol) and 10% palladium on carbon (1.44 g, 10% by weight) in ethanol (150 mL) was shaken under an atmosphere of hydrogen at 40 psi for 2 h. After this time, the reaction was filtered through diatomaceous earth, and concentrated under reduced pressure to afford tert-butyl 2-(4-aminophenyl)propanoate (12.5 g, 99%) as an orange oil: 1H NNR (300 MHz, CDCl3) δ 7.07 (d, J=9.1 Hz, 2H), 6.63 (d, J=9.1 Hz, 2H), 3.60 (s, 2H), 3.49 (q, J=7.1 Hz, 1H), 1.40 (d, 3H), 1.38 (s, 9H); ESI MS m/z 222 [M+H]+.

reactant | tert-butyl 2-(4-nitrophenyl)propanoate | 57.3 mmol, 14.4 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)OC(C)(C)C)C | C13H17NO4
catalyst | palladium on carbon | 1.44 g | [Pd] | Pd
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | tert-butyl 2-(4-aminophenyl)propanoate | 12.5 g, 99% | NC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)C | C13H19NO2
